US08957203B2
To a solution of (2S,4R)-1-(tert-butoxycarbonyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid (1.1 g, 2.8 mmole) in dichloromethane (15 mL) was added HATU (1.07 g, 2.8 mmole) followed by DIPEA (2.4 mL, 14.1 mmole) at room temperature. The reaction mass was stirred at the same temperature for 10 min. (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide hydrochloride (prepared according to the procedure described in WO 03/099274) was added to the reaction mass and stirred at room temperature for 30 min. The reaction mass was diluted with dichloromethane and washed with water. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure to get the crude compound. The crude compound was purified by silica gel chromatography (70% ethyl acetate in pet ether) to get 1.3 g (76.4%) of (2S,4R)-tert-butyl 2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate as a white solid. MS: MS m/z 601.2 (M++1).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid | 2.8 mmole, 1.1 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C2=CC=CC=C12)OC)C(=O)O | C20H24N2O6
reactant | HATU | 2.8 mmole, 1.07 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 14.1 mmole, 2.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide hydrochloride | Cl.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1CC1
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2S,4R)-tert-butyl 2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.3 g, 76.4% | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)OC1=NC=C(C2=CC=CC=C12)OC)C(=O)OC(C)(C)C | C29H36N4O8S
